US08466115B2
2-bromo-4-(diethoxymethyl)-1-fluorobenzene
A 250 mL flask was charged with 3-bromo-4-fluorobenzaldehyde (13.5 g, 66.5 mmol), triethyl orthoformate (13.3 mL, 79.8 mmol), and anhydrous EtOH (150 mL). Tetrabutylammonium tribromide was added and the reaction mixture was allowed to stir at room temperature for 48 hours. The crude reaction was poured into aqueous NaHCO3 and extracted with ethyl acetate (75 ml). The organic layers were combined, dried with Na2SO4 and reduced under vacuum to afford the intermediate (16.2 g, 88%) as a clear oil. 1HNMR (CDCl3) δ ppm: 7.71 (1H), 7.40 (1H), 7.12 (1H), 5.48 (1H), 3.65-3.51 (4H), 1.28-1.24 (6H).

reactant | 3-bromo-4-fluorobenzaldehyde | 66.5 mmol, 13.5 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | triethyl orthoformate | 79.8 mmol, 13.3 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | Tetrabutylammonium tribromide | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 150 mL | CCO | C2H6O
product | 2-bromo-4-(diethoxymethyl)-1-fluorobenzene | 16.2 g, 88% | BrC1=C(C=CC(=C1)C(OCC)OCC)F | C11H14BrFO2
